US09353066B2
HATU (927 mg, 2.44 mmol), morpholine (0.212 mL, 2.44 mmol), and diisopropylethylamine (0.532 mL, 3.05 mmol) were added sequentially to a solution of 3-bromo-5-nitrobenzoic acid (500 mg, 2.03 mmol) in DMF (10 mL) at 0° C. The reaction mixture was stirred for 2 hours at 0° C., then the mixture was diluted with ethyl acetate (50 mL) and washed with saturated aqueous NaHCO3 (50 mL) followed by 1:1 water: brine (2×30 mL). The organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) provided (3-bromo-5-nitrophenyl)(morpholin-4-yl)methanone as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.43 (t, J=1.9 Hz, 1H), 8.28-8.12 (m, 1H), 7.89 (t, J=1.5 Hz, 1H), 3.74 (br m, 8H).

reactant | HATU | 2.44 mmol, 927 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | morpholine | 2.44 mmol, 0.212 mL | N1CCOCC1 | C4H9NO
reactant | diisopropylethylamine | 3.05 mmol, 0.532 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-bromo-5-nitrobenzoic acid | 2.03 mmol, 500 mg | BrC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4BrNO4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (3-bromo-5-nitrophenyl)(morpholin-4-yl)methanone | BrC=1C=C(C=C(C1)[N+](=O)[O-])C(=O)N1CCOCC1 | C11H11BrN2O4
